US06476041B1
To a stirred solution of 1.0 mL of oxalyl chloride in 30 mL of methylene chloride cooled to −78° C. was added 2 mL of anhydrous DMSO. After 10 min, a solution of 2.1 g of 3-[2-(3-hydroxy-butyl)-benzimidazol-1-yl]-propionitrile in 150 mL of dichloromethane was added keeping the temperature below −50° C. After 10 min, 10 mL of triethyl amine was added and the mixture allowed to warm to room temperature. After 15 min, the mixture was diluted with 250 mL of water, shaken and separated. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. Drying under vacuum gave 2.2 g of 3-[2-(3-oxo-butyl)-benzimidazol-1-yl]-propionitrile as an amber resin.

reactant | oxalyl chloride | 1.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
reactant | 3-[2-(3-hydroxy-butyl)-benzimidazol-1-yl]-propionitrile | 2.1 g | OC(CCC1=NC2=C(N1CCC#N)C=CC=C2)C | C14H17N3O
reactant | triethyl amine | 10 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | 250 mL | O | H2O
product | 3-[2-(3-oxo-butyl)-benzimidazol-1-yl]-propionitrile | 2.2 g | O=C(CCC1=NC2=C(N1CCC#N)C=CC=C2)C | C14H15N3O
